US08492006B2
Synthesis of 2-(3,5-dimethylphenyl)-6-(triisopropylgermyl)quinoline
6-Bromo-2-(3,5-dimethylphenyl)quinoline (5.3 g, 16.98 mmol) and 150 mL anhydrous THF were added in a dry two-necked round bottom flask and cooled down to −78° C. 7.2 mL BuLi (2.5 M) was added dropwise. The solution was stirred for 45 minutes and 4.4 mL (20.37 mmol) of chlorotriisopropylgermane was slowly added with a syringe. The solution was stirred for 4 h and monitored by GC until the reaction was finished. The reaction mixture was purified by column and distillation. ˜6.1 g colorless liquid was obtained after distillation. GC-MS confirmed the desired product.

reactant | 6-Bromo-2-(3,5-dimethylphenyl)quinoline | 16.98 mmol, 5.3 g | BrC=1C=C2C=CC(=NC2=CC1)C1=CC(=CC(=C1)C)C | C17H14BrN
reactant | BuLi | 2.5 M, 7.2 mL | [Li]CCCC
reactant | chlorotriisopropylgermane | 20.37 mmol, 4.4 mL | Cl[Ge](C(C)C)(C(C)C)C(C)C | C9H21ClGe
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(3,5-dimethylphenyl)-6-(triisopropylgermyl)quinoline | ˜6.1 g | CC=1C=C(C=C(C1)C)C1=NC2=CC=C(C=C2C=C1)[Ge](C(C)C)(C(C)C)C(C)C | C26H35GeN
